US07138425B2
c) 2-[4-Methoxy-5-[5-(4-trifluoromethylphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-methoxyphenyl)-5-(4-trifluoromethylphenyl)benzoxazole (90 mg, 0.23 mmol) and 1,2,4-benzenetricarboxylic anhydride (45 mg, 0.23 mmol) the title compound was obtained (102 mg, 79%). 1H NMR (DMSO) δ 13.74(s, 1H), 8.43(d, 1H), 8.33(s, 1H), 8.22(d, 1H), 8.20(d, 1H), 8.10(d, 1H), 7.99(d, 2H), 7.93(d, 1H), 7.83(m, 3H), 7.72(dd, 1H), 7.48(d, 1H), 4.03(s, 3H). MS 559.3 m/z (M+H)+.

reactant | 2-(3-amino-6-methoxyphenyl)-5-(4-trifluoromethylphenyl)benzoxazole | 0.23 mmol, 90 mg | NC=1C=C(C(=CC1)OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F | C21H15F3N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.23 mmol, 45 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Methoxy-5-[5-(4-trifluoromethylphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=CC=C(C=C1C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C30H17F3N2O6
